US06284789B1
A solution of 454 mg of 2,3-dichloro-5,6-dicyanobenzoquinone in 4 mL of dioxane was added dropwise over a period of 5 minutes to a stirred solution of 6-acetoxy -7-methoxytetralin in 1 mL of 5% aqueous dioxane at 25° C. under an atmosphere of nitrogen. The resulting solution was stirred at 25° C. for 20 hours. Thereafter the reaction mixture was filtered through a sintered glass funnel and the solid residue of 2,3-dichloro-5,6-dicyaniodihydroquinione was washed with 2 mL of dioxane. The residue wash solution was combined with the filtrate. Thereafter the dioxanie was evaporated from the combined filtrate at reduced atmospheric pressure. The resulting residue was stirred with a mixture of 10 mL of 5% aqueous sodium bicarbonate and 80 mL of ethyl acetate. The ethyl acetate layer was separated and washed successively once with 5 mL of 5% aqueous sodium bicarbonate, once with 5 mL of water, and twice with 5 mL of brine. The ethyl acetate extract was dried over anhydrous magnesium sulfate. The magnesium sulfate was removed by filtration and the ethyl acetate was evaporated from the filtrate at reduced atmospheric pressure. The resulting residue was chromatographed on a column of silica gel eluted by a solution of ethyl acetate and hexane in a ratio of 3 to 5 under a moderate positive pressure to obtain 146 mg of 7-acetoxy-6-methoxytetralin-1-one having m.p. 118.5-119.5° C. MS [M+]234.

reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 454 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | 6-acetoxy -7-methoxytetralin | C(C)(=O)OC=1C=C2CCCCC2=CC1OC | C13H16O3
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 7-acetoxy-6-methoxytetralin-1-one | 146 mg | C(C)(=O)OC1=C(C=C2CCCC(C2=C1)=O)OC | C13H14O4
